US05969154
A suspension consisting of 75.66 g (0.55 mol) of 4-chlorobenzonitrile, 106.42 g (0.77 mol) of potassium carbonate and 111.32 g (0.55 mol) of 1-dodecanethiol is heated, with stirring, under an inert gas atmosphere in 280 ml of N,N-dimethylacetamide to 130° C. and is then stirred at this temperature for 24 hours. After cooling the reaction mixture to room temperature, it is poured on a mixture of 700 g of ice and 750 ml of water. The mixture is filtered and the filter cake is washed with water. The product is recrystallised from methanol and dried at 50° C. under vacuum, affording 160.2 g (96% of theory) of 4-(dodecyl-thio)benzonitrile.

reactant | 4-chlorobenzonitrile | 0.55 mol, 75.66 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | potassium carbonate | 0.77 mol, 106.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-dodecanethiol | 0.55 mol, 111.32 g | C(CCCCCCCCCCC)S | C12H26S
reactant | water | 750 ml | O | H2O
solvent | N,N-dimethylacetamide | 280 ml | CN(C(C)=O)C | C4H9NO
product | 4-(dodecyl-thio)benzonitrile | 160.2 g, 96% | C(CCCCCCCCCCC)SC1=CC=C(C#N)C=C1 | C19H29NS
